US07414061B2
c) 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid methoxy-methyl-amide
A mixture of 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid (3.72 g, 16 mmol), N,O-dimethylhydroxylamine hydrochloride (2.53 g, 26 mmol), N-methylmorpholine (2.85 mL, 26 mmol) and 4-dimethylaminopyridine (198 mg, 2 mmol) in dichloromethane (50 mL) and DMF (10 mL) was cooled to 0° C. Then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (3.73 g, 19 mmol) was added and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was poured into hydrochloric acid (1 N) and extracted with ethyl acetate. The combined organic layers were then washed with a saturated solution of sodium hydrogen carbonate, brine and then dried over sodium sulphate and evaporated to leave a light yellow oil. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (4.03 g, 91%) which was obtained as a colourles oil. MS: m/e=273.0 [M+H]+.

reactant | 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid | 16 mmol, 3.72 g | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C13H11NO3
reactant | N,O-dimethylhydroxylamine hydrochloride | 26 mmol, 2.53 g | Cl.CNOC
reactant | N-methylmorpholine | 26 mmol, 2.85 mL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 19 mmol, 3.73 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 2 mmol, 198 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid methoxy-methyl-amide | 4.03 g, 91% | CON(C(=O)C=1C(=NOC1C1CC1)C1=CC=CC=C1)C | C15H16N2O3
